US05688815
0.7 g of 4-{[3-benzyloxy-1-(2-hydroxy-ethyl)-4-oxo-1,4-dihydro-pyridin-2-yl]-hydroxy-methyl}-benzamide is hydrogenated in 20 ml of methanol over 0.07 g of palladium on carbon (5%) under normal pressure and at room temperature. The catalyst is removed by filtration and the product is recrystallised from methanol, yielding 4-{hydroxy-[3-hydroxy-1-(2-hydroxy-ethyl)-4-oxo-1,4-dihydro-pyridin-2-yl]-methyl}-benzamide in the form of colourless crystals. M.p.: 215.4°-216.5° C.

reactant | 4-{[3-benzyloxy-1-(2-hydroxy-ethyl)-4-oxo-1,4-dihydro-pyridin-2-yl]-hydroxy-methyl}-benzamide | 0.7 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(C1=CC=C(C(=O)N)C=C1)O | C22H22N2O5
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 0.07 g | [Pd] | Pd
product | 4-{hydroxy-[3-hydroxy-1-(2-hydroxy-ethyl)-4-oxo-1,4-dihydro-pyridin-2-yl]-methyl}-benzamide | OC(C1=CC=C(C(=O)N)C=C1)C=1N(C=CC(C1O)=O)CCO | C15H16N2O5
